US07615562B2
[4-(6-Methoxy-benzo[b]thiophen-2-yl)-5-methyl-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared analogous to Method A, starting 6-methoxy-benzo[b]thiophene-2-boronic acid, 2,4-dichloro-5-methyl-pyrimidine and 4-amino-2,2,6,6-tetramethylpiperidine.

reactant | 6-methoxy-benzo[b]thiophene-2-boronic acid | COC=1C=CC2=C(SC(=C2)B(O)O)C1 | C9H9BO3S
reactant | 2,4-dichloro-5-methyl-pyrimidine | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
product | [4-(6-Methoxy-benzo[b]thiophen-2-yl)-5-methyl-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | COC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NC2CC(NC(C2)(C)C)(C)C)C1 | C23H30N4OS
